US07618975B2
Difluoromethyl-(4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine
A solution of (4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine (100 mg, 0.35 mmol) in 3 mL of dimethylformamide in a 15 mL high pressure reaction vessel was cooled to −78° C. Diflurochloromethane (about 0.8 mL) was condensed into the solution, then cesium carbonate (160 mg, 0.49 mmol) was added. The reaction vessel was capped and heated at 80° C. overnight. The reaction mixture was cooled to room temperature and cooled to −78° C. and the seal tube was uncapped, warm to room temperature and allowed to stand for 2 h. The reaction mixture was diluted with 50 mL of ethyl acetate and the organic layer was washed with water (50 mL×3), followed by saturated aqueous NaCl. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by chromatography (30% ethyl acetate/hexane, 6 drops triethylamine/500 mL of solvent) to give the title compound (35 mg, 0.111 mmol, 32%). 1H NMR (CDCl3): 8.35 (dd, J=1.8, 8.1, 1H), 7.35-(m, 3H), 7.25 (t, J=72.1, 1H), 7.21-7.25 (m, 2H), 6.86-6.91 (m, 2H), 3.82 (s, 3H), 2.48 (s, 3H).

reactant | (4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.35 mmol, 100 mg | COC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C | C16H15N3O
reactant | Diflurochloromethane | about 0.8 mL | FC(Cl)F | CHClF2
reactant | cesium carbonate | 0.49 mmol, 160 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Difluoromethyl-(4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.111 mmol, 35 mg, 32% | FC(F)N(C1=NC(=NC2=CC=CC=C12)C)C1=CC=C(C=C1)OC | C17H15F2N3O
